US08865715B2
Synthesis of 1-(3-azido-3-phenylpropyl)azetidine (for the preparation of “A8”)
3.4 1.50 g (23.1 mmol) of sodium azide are added to a solution of 2.00 g (7.43 mmol) of 3-azetidin-1-yl-1-phenylpropyl methanesulfonate in 50 ml of DMF, and the mixture is stirred at room temperature for 48 hours. The reaction mixture is partitioned between water and ethyl acetate. The organic phase is dried over sodium sulfate, evaporated, and the residue is chromatographed on a silica-gel column with ethyl acetate/methanol as eluent: 1-(3-azido-3-phenylpropyl)azetidine as colourless viscous oil; HPLC/MS 0.9 min; [M+H] 217.

reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | 3-azetidin-1-yl-1-phenylpropyl methanesulfonate | 7.43 mmol, 2.00 g | CS(=O)(=O)OC(CCN1CCC1)C1=CC=CC=C1 | C13H19NO3S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(3-azido-3-phenylpropyl)azetidine | N(=[N+]=[N-])C(CCN1CCC1)C1=CC=CC=C1 | C12H16N4
